US04335142
PREPARATION OF 2-CHLORO-1-(m-NITROPHENYLSULFONYL)ETHYL PHENYL SULFIDE
In a mixture of 50 ml of glacial acetic acid and 100 ml of carbon tetrachloride at 56° was dissolved 30.9 g (0.145 mole) of m-nitrophenyl vinyl sulfone. Addition of 21.0 g (0.145 mole) of benzenesulfenyl chloride produced an exotherm to 58°. The clear solution was allowed to stand for seventy hours. Removal of the solvent by evaporation at reduced pressure and recrystallization of the residue from toluene gave yellow needles, m.p. 125.5°-126.5°.

reactant | m-nitrophenyl vinyl sulfone | 0.145 mole, 30.9 g | C(=C)S(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C8H7NO4S
reactant | benzenesulfenyl chloride | 0.145 mole, 21.0 g | C1(=CC=CC=C1)SCl | C6H5ClS
reactant | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 2-CHLORO-1-(m-NITROPHENYLSULFONYL)ETHYL PHENYL SULFIDE | C1(=CC=CC=C1)SC(CCl)S(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C14H12ClNO4S2
